US04880840
N-(2-(4-Methoxyphenyl)-1-methylethyl)hydroxylamine hydrochloride
23.7 g (0.13 mol) of 4-methoxyphenylacetone oxime were dissolved in 200 ml of methanol and the solution was brought to pH 3 with dilute hydrochloric acid. 8.3 g (0.13 mol) of NaBH3CN were then introduced in portions, the pH being kept at 3 by simultaneous addition of dilute hydrochloric acid. The mixture was subsequently stirred overnight at room temperature, the pH was brought to 1 with hydrochloric acid and the mixture was evaporated. The aqueous residue was extracted with methylene chloride (3×100 ml). The combined organic phases were washed with water (3×25 ml), dried over Na2SO4 and evaporated. Yield 23.3 g (80% of theory), melting point 124° C.

reactant | 4-methoxyphenylacetone oxime | 0.13 mol, 23.7 g | COC1=CC=C(C=C1)CC(C)=NO | C10H13NO2
reactant | hydrochloric acid | Cl | ClH
reactant | NaBH3CN | 0.13 mol, 8.3 g | [BH3-]C#N.[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | N-(2-(4-Methoxyphenyl)-1-methylethyl)hydroxylamine hydrochloride | Cl.COC1=CC=C(C=C1)CC(C)NO | InChI=1S/C10H15NO2.ClH/c1-8(11-12)7-9-3-5-10(13-2)6-4-9;/h3-6,8,11-12H,7H2,1-2H3;1H
